US06921753B2
(2R,3R,4S, 5R)-2-(2-(Aminomethyl)-6-{[2,2-bis(3-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (620 mg, 1 mmol) (Preparation 66) was dissolved in a saturated solution of 0.88 concentrated aqueous ammonia in ethanol (20 ml). The solution was then stirred under an atmosphere of hydrogen gas (414 kPa, 60 psi) at room temperature for 64 hours in the presence of 10% Palladium on carbon (120 mg). The reaction mixture was then filtered through Arbocel (Trade Mark) and the filtrate was evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:(90:10 by volume) increasing in polarity to dichloromethane:methanol:0.88 concentrated aqueous ammonia (80:20:2 by volume). The solvent was removed under reduced pressure to give the title compound (253 mg) as a foam.

reactant | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 1 mmol, 620 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)C#N)COC(C)=O | C33H34N6O7
solvent | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 120 mg | [Pd] | Pd
product | (2R,3R,4S, 5R)-2-(2-(Aminomethyl)-6-{[2,2-bis(3-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 253 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C | C27H32N6O4
